US05917067
3- (2-cyclohexanoyl )propionitrile
A reactor is loaded with 980 g of cyclohexanone, 22 g of acrylonitrile, 18 g of glacial acetic acid, 40 g of cyclohexylamine and 11 g of hydroquinone. The reaction mixture is slowly raised to 130° C. and then kept at this temperature for 2 hours. The reaction product is cooled to 25° C., the catalyst is filtered out and distillation is performed, collecting 552 g of 3-(2-cyclohexanoly)propionitrile (b.p. 113-116° C./4 mm Hg).

reactant | cyclohexanone | 980 g | C1(CCCCC1)=O | C6H10O
reactant | acrylonitrile | 22 g | C(C=C)#N | C3H3N
reactant | cyclohexylamine | 40 g | C1(CCCCC1)N | C6H13N
reactant | hydroquinone | 11 g | C1(O)=CC=C(O)C=C1 | C6H6O2
solvent | acetic acid | 18 g | C(C)(=O)O | C2H4O2
product | 3- (2-cyclohexanoyl )propionitrile | C1C(CCCC1)C(=O)CCC#N | C10H15NO
